US08071651B2
a) (1R,2S,4R)-7-Oxabicyclo[2.2.1]hept-5-ene-2-carboxylic acid
A solution of 1 mmol of (1R,2R)-2-(naphthalene-2-sulphonyl)cyclohexyl ester (exo)-(1R,2S,4R)-7-oxabicyclo[2.2.1]-hept-5-ene-2-carboxylate in 5 ml of N,N-dimethylformamide is mixed with 2 mmol of potassium hydroxide and stirred at 60° C. for 17 hours. The reaction mixture is cooled to room temperature and, after addition of 1M citric acid solution, extracted with tert-butyl methyl ether (3×). The combined organic phases are washed with cold water and cold brine, dried with sodium sulphate and evaporated at room temperature. The title compound is identified by means of the Rf from the residue by flash chromatography (SiO2 60 F).

reactant | potassium hydroxide | 2 mmol | [OH-].[K+]
reactant | citric acid | 1M | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (1R,2S,4R)-7-Oxabicyclo[2.2.1]hept-5-ene-2-carboxylic acid | [C@H]12[C@H](C[C@H](C=C1)O2)C(=O)O | C7H8O3
